US08912188B2
To a solution of (S)-methyl 2-(1-(tert-butoxycarbonyl)-1H-indazol-5-yl)-7-methoxy-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylate (310 mg, crude) in dichloromethane (32 ml) was added trifluoroacetic acid (8 ml). After stirring overnight at room temperature, the pH value was adjusted to 7 with aqueous sodium bicarbonate and extracted with dichloromethane (2×25 ml). The organic layers were combined, dried over anhydrous magnesium sulfate and concentrated under vacuum to give a residue, which was purified via silica gel chromatography (10% ethyl acetate in petroleum ether) to give (S)-methyl 2-(1H-indazol-5-yl)-7-methoxy-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylate (240 mg) as yellow solid.

reactant | (S)-methyl 2-(1-(tert-butoxycarbonyl)-1H-indazol-5-yl)-7-methoxy-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylate | 310 mg | C(C)(C)(C)OC(=O)N1N=CC2=CC(=CC=C12)C1=NC2=CC(=C(C=C2N=C1N1[C@H](CCC1)C)C(=O)OC)OC | C28H31N5O5
reactant | trifluoroacetic acid | 8 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 32 ml | ClCCl | CH2Cl2
product | (S)-methyl 2-(1H-indazol-5-yl)-7-methoxy-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylate | 240 mg | N1N=CC2=CC(=CC=C12)C1=NC2=CC(=C(C=C2N=C1N1[C@H](CCC1)C)C(=O)OC)OC | C23H23N5O3
